US08563686B2
Step VIII: Synthesis of Boc-Ala-Ala-Ala-NH—(CH2)4—Br
To a cold (−15° C.) solution of Boc-Ala-OH (118 mg, 0.63 mmol) and NMM (103 μl, 1.03 mmol) in THF (8 mL) was added ECF (61 μl, 0.64 mmol) and stirred vigorously. After 2 min. a solution of the TFA salt of Ala-Ala-NH(CH2)4—Br (280 mg, 0.69 mmol) in a mixture of THF:DMF (4 mL:2 mL) was added to it followed by NMM (170 μL, 1.7 mmol) and stirred for further 30 minutes. The mixture was warmed to r.t. and stirred for 6 h. The solvent was removed under reduced pressure to give a residue which was diluted with EtOAc and washed with saturated citric acid, saturated NaHCO3 and the organic layer was dried over Na2SO4 and concentrated under vacuum to give a residue, which was purified by silica gel flash column chromatography (EtOAc:Hexanes—9:1) to give the desired product as a solid (m.p.—196-198° C.) in moderate yields (137 mg, 54%). TLC (MeOH:DCM—1:9; Rf—0.53).

reactant | Boc-Ala-OH | 0.63 mmol, 118 mg | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | NMM | 1.03 mmol, 103 μl | CN1CCOCC1 | C5H11NO
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Ala-Ala-NH(CH2)4—Br | 0.69 mmol, 280 mg | N[C@@H](C)C(=O)N[C@@H](C)C(=O)NCCCCBr | C10H20BrN3O2
reactant | NMM | 1.7 mmol, 170 μL | CN1CCOCC1 | C5H11NO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Boc-Ala-Ala-Ala-NH—(CH2)4—Br | N([C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)NCCCCBr)C(=O)OC(C)(C)C | C18H33BrN4O5
